US06124354
3-Methylidenequinuclidinyl 1-phenylcyclobutanecarboxylate Hydrochloride
The title compound was prepared in an analogous manner to that in Example 36 by reacting 1-phenylcyclobutanecarboxylate hydrochloride with 3-methylidenequinuclidinol. The esterification was carried out in CH2Cl2. The crude was chromatographed on silica gel using toluene-Et3N 88:12 as eluent. The yield was 0.07 g (9%); mp 155-157° C.; 1H NMR (CDCl3) δ 1.80-2.10 (m, 7H), 2.25 (m, 1H), 2.52 (m, 2H), 2.76 (m, 3H), 3.18 (m, 5H), 4.09 (m, 2H), 7.29 (m, 5H), 12.2 (br, 1H). Anal. (C19H25NO2.HCl) H, N; C: calcd, 67.94; found, 67.25.

reactant | 1-phenylcyclobutanecarboxylate hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)O
reactant | 3-methylidenequinuclidinol | C=C1C(N2CCC1CC2)O | C8H13NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-Methylidenequinuclidinyl 1-phenylcyclobutanecarboxylate Hydrochloride | Cl.C1(=CC=CC=C1)C1(CCC1)C(=O)OC1N2CCC(C1=C)CC2 | InChI=1S/C19H23NO2.ClH/c1-14-15-8-12-20(13-9-15)17(14)22-18(21)19(10-5-11-19)16-6-3-2-4-7-16;/h2-4,6-7,15,17H,1,5,8-13H2;1H
